Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: CARDIOTHORACIC
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
Pulmonary nodules
 
Major Surgical or Invasive Procedure:
___
Video-assisted thoracoscopic surgical right lower lobe wedge 
resection x2.

 
History of Present Illness:
___ with a ___ yr s/p low anterior resection for stage IIIB colon 
cancer.  He was noted to have multiple 2-3mm pulmonary nodules 
on surveillance chest CT
___. The nodules have increased in number and size up to 5mm 
on f/u CT ___. He presents planned lung biopsy.  He denies 
cough, hemoptysis, pain, weight loss, neurologic symptoms, or 
recent respiratory infection.  He has minimal dyspnea, very 
occasional light-headedness but no syncope, and no angina.
 
Past Medical History:
PMH:
Cirrhosis c/b variceal bleeding, Aortic stenosis (0.8cm2), 
Barrett's esophagitis, HIV, HTN, HLD, Anemia, GERD, Colon cancer 
stage IIIB ___

PSH: 
LAR ___, LOA for SBO ___, TIPS ___ for variceal bleed

 
Social History:
___
Family History:
Unavailable as patient states he never knew his family well. 
 
Physical Exam:
BP: 123/52. Heart Rate: 54. Temperature: 97.8. O2 Saturation%:
97.

GENERAL        
[x] WN/WD  [x] NAD  [x] AAO  [x] abnormal findings:  thin

HEENT          
[x] NC/AT   [x] EOMI   [x] PERRL/A   [x] Anicteric
[x] OP/NP mucosa normal     [x] Tongue midline
[x] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [x] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [x] No fremitus
[x] No egophony    [x] No spine/CVAT
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[x] Abnormal findings:  loud SEM

GI             
[x] Soft    [x] NT   [x] ND  [x] No mass/HSM   [x] No hernia
[x] Abnormal findings:  healed lower midline scar

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [x] Sensation intact/ symmetric
[x] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[x] Cranial nerves intact   [ ] Abnormal findings:

MS     

        
[x] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[x] No tenderness  [x] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [ ] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[x] Inguinal nl   [ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
___ CXR :
In comparison with study of ___, the right chest tube has been 
removed and there is no evidence of pneumothorax.  Little change 
in the 
appearance of the heart and lungs. 

___ Ba swallow :
No evidence of obstruction or other abnormalities
  

 
Brief Hospital Course:
Mr. ___ was admitted to the hospital and taken to the 
Operating Room where he underwent a right VATS with RLL wedge 
resection x 2.  He tolerated the procedure well and returned to 
the PACU in stable condition.  Although his hemodynamics were 
stable, he required some Narcan as he was a bit oversedated.  
His narcotics were held and his pain was treated with Tylenol 
and Tramadol.  

He was transferred to the Surgical floor and maintained stable 
hemodynamics.  His chest tube had an intermittent air leak but 
it eventually resolved and his tube was removed on POD # 2.  His 
chest xray showed no pneumothorax but he complained of chest 
pain later that day.  Serial enzymes including Troponins were 
negative along with his EKG.  he also had some episodes of 
vomiting.  The vomiting resolved but his appetite was poor and 
he complained of solid food getting stuck, causing some mid 
chest fullness.  A barium swallow was done on ___ which 
showed no obstruction or other abnormalities.  He then was able 
to have soup without difficulty and actually had chicken fingers 
to perk up his appetite.  As there were no more episodes of 
dysphagia or vomiting he was discharged home on ___ and will 
follow up in the Thoracic Clinic in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lactulose ___ mL PO TID 
2. Losartan Potassium 50 mg PO DAILY 
3. Dapsone 50 mg PO DAILY 
4. Darunavir 800 mg PO DAILY 
5. RiTONAvir 100 mg PO DAILY 
6. Pravastatin 10 mg PO DAILY 
7. Rifaximin 550 mg PO BID 
8. Pantoprazole 40 mg PO Q12H 
9. LaMIVudine 150 mg PO DAILY 

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H 
2. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
RX *tramadol 50 mg 1 tablet(s) by mouth every six (6) hours Disp 
#*30 Tablet Refills:*0
3. Dapsone 50 mg PO DAILY 
4. Darunavir 800 mg PO DAILY 
5. LaMIVudine 150 mg PO DAILY 
6. Lactulose 30 mL PO TID 
7. Rifaximin 550 mg PO BID 
8. RiTONAvir 100 mg PO DAILY 
9. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0
10. OxycoDONE (Immediate Release)  2.5 mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 0.5 (One half) tablet(s) by mouth every four 
(4) hours Disp #*20 Tablet Refills:*0
11. Pravastatin 10 mg PO DAILY 
12. Losartan Potassium 50 mg PO DAILY 
13. Pantoprazole 40 mg PO Q12H 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
pulmonary nodules
dysphagia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge.
* Continue to use your incentive spirometer 10 times an hour 
while awake.
* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.
* Your chest tube dressing may be removed in 48 hours.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.
* You will continue to need pain medication once you are home 
but you can wean it over a few weeks as the discomfort resolves. 
 Make sure that you have regular bowel movements while on 
narcotic pain medications as they are constipating which can 
cause more problems.  Use a stool softener or gentle laxative to 
stay regular.
* No driving while taking narcotic pain medication.
* Take Tylenol  ___ mg every 6 hours in between your narcotic.  
If your doctor allows you may also take Ibuprofen to help 
relieve the pain.
* Continue to stay well hydrated and eat well to heal your 
incisions
* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
* No tub bathing, swimming or hot tubs until incision healed
* No lotions or creams to incision site
* Walk ___ times a day and gradually increase your activity as 
you can tolerate.
Call Dr. ___ ___ if you experience:
-Fevers > 101 or chills
-Increased shortness of breath, chest pain or any other symptoms 
that concern you.
 
Followup Instructions:
___